US09447106B2
Step 3: 1-Benzyl-5′-oxo-2′-(4-phenoxyphenyl)-5′,6′-dihydro-4′H-spiro[piperidine-4,7′-pyrazolo[1,5-a]pyrimidine]-3′-carboxamide
A solution of 1-benzyl-5′-oxo-2′-(4-phenoxyphenyl)-5′,6′-dihydro-4′H-spiro[piperidine-4,7′-pyrazolo[1,5-a]pyrimidine]-3′-carbonitrile (500 mg, 1.02 mmol) in H3PO4 (5 mL) was heated to 130° C. for 1 hr. The mixture was poured to water (20 mL) and extracted with EA (20 mL×3). The combined organic layers were dried over Na2SO4, concentrated and purified by chromatography column on silica gel using 5% of MeOH in DCM as eluant to afford the product (180 mg, 34.8%) as a yellow solid. MS (ESI, m/e) [M+1]+ 507.9.

reactant | 1-benzyl-5′-oxo-2′-(4-phenoxyphenyl)-5′,6′-dihydro-4′H-spiro[piperidine-4,7′-pyrazolo[1,5-a]pyrimidine]-3′-carbonitrile | 1.02 mmol, 500 mg | C(C1=CC=CC=C1)N1CCC2(CC(NC=3N2N=C(C3C#N)C3=CC=C(C=C3)OC3=CC=CC=C3)=O)CC1 | C30H27N5O2
reactant | water | 20 mL | O | H2O
solvent | H3PO4 | 5 mL | OP(=O)(O)O | H3O4P
product | 1-Benzyl-5′-oxo-2′-(4-phenoxyphenyl)-5′,6′-dihydro-4′H-spiro[piperidine-4,7′-pyrazolo[1,5-a]pyrimidine]-3′-carboxamide | 180 mg, 34.8% | C(C1=CC=CC=C1)N1CCC2(CC(NC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)=O)CC1 | C30H29N5O3
